US05639752
Y. 5-(4-Cyano-2-nitrophenylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole end 4-chloro-3-nitrobenzonitrile were used. Triethylamine was used as base, absolute ethanol was used as solvent, and the reaction was heated at reflux for 4 hours. Column chromatography afforded the title compound (80%) as a red solid: mp, 170°-171.0° C.; 13C NMR (CDCl3) δ147.3, 137.1, 135.4, 132.0, 131.4, 128.6, 128.0, 125.3, 120.6, 117.9, 117.1, 116.3, 113.1, 111.9, 99.1, 68.1, 57.3, 40.6, 31.2, 28.1, 21.9, Anal. calcd for C21H21N5O2.0.05 CH2Cl2 : C, 66.59; H, 5.60; N, 18.44. Found: C, 66.56; H, 5.26; N, 18.42.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | 4-chloro-3-nitrobenzonitrile | ClC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3ClN2O2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-Cyano-2-nitrophenylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 80% | C(#N)C1=CC(=C(C=C1)NC=1C=C2C(=CNC2=CC1)CC1N(CCC1)C)[N+](=O)[O-] | C21H21N5O2
